US04506099
75 g of a 25% aqueous ammonia solution are placed together with 10 g of Raney nickel and 20 ml of 1N aqueous NaOH as well as 52.2 g (0.2 mol) of 3,3-dimethyl-12- isopropyl-1-aza-1,5,9-cyclododecatriene into an autoclave with magnetic stirrer. After the reaction mixture has been heated to 175° C., hydrogen gas is injected up to a total pressure of 50 bar. After a reaction time of 9 hours, the mixture is cooled and distilled. There is obtained 65% of the theoretical yield of 1-isopropyl-10,10-dimethyl-1,11-diaminoundecane.

reactant | ammonia | N | H3N
reactant | 3,3-dimethyl-12- isopropyl-1-aza-1,5,9-cyclododecatriene | 0.2 mol, 52.2 g | CC1(C=NC(CC=CCCC=CC1)C(C)C)C | C16H27N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 10 g | [Ni] | Ni
solvent | NaOH | 1N, 20 ml | [OH-].[Na+]
product | 1-isopropyl-10,10-dimethyl-1,11-diaminoundecane | C(C)(C)C(CCCCCCCCC(CN)(C)C)N | C16H36N2
